US07838498B2
Preparation of 1-(5-chloro-4-(4-ethylbenzyl)-2-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl)benzyloxy)propan-2-one (Compound K)
To a stirred solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-((2-oxopropoxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (36.8 g, 0.057 mmol) (prepared from intermediate J using a Wacker oxidation as described for the preparation of intermediate T-1 below) in THF:MeOH:H2O (2:3:1, 1.2 mL) was added lithium hydroxide (3.71 mg). The reaction was stirred overnight at 20° C. The volatiles were removed and the residue was dissolved in EtOAc (20 mL), washed 1× with brine, 1× with brine containing 2 mL of 5% aqueous KHSO4 and dried over Na2SO4. Concentration gave 16 mg of pure product as a white solid. 1H-NMR (CD3OD, 300 MHz) δ 7.47 (s, 1H), 7.44 (s, 1H), 7.08 (s, 4H), 4.80 (d, J=12.3 Hz, 1H), 4.55 (d, J=9.6 Hz, 1H), 4.22 (s, 2H), 4.10 (d, J=14.8 Hz, 1H), 4.05 (d, J=14.8 Hz, 1H), 3.85 (dd, J=11.7 Hz, 2.1 Hz, 1H), 387-3.83 (m, 1H), 3.68-3.63 (m, 1H), 3.50-3.36 (m, 4H), 2.58 (q, J=7.8 Hz, 2H), 2.12 (s, 3H), 1.19 (t, J=7.8 Hz, 3H); LC-MS (m/z) 479 [(M+1)+], 523 [(M+45)−].

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-((2-oxopropoxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.057 mmol, 36.8 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)COCC(C)=O)COC(C)=O | C33H39ClO11
reactant | lithium hydroxide | 3.71 mg | [OH-].[Li+]
solvent | THF MeOH H2O | 1.2 mL | C1CCOC1.CO.O
product | 1-(5-chloro-4-(4-ethylbenzyl)-2-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl)benzyloxy)propan-2-one | 16 mg | ClC=1C(=CC(=C(COCC(C)=O)C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)CC | C25H31ClO7
